US05246929
To a solution of 2-amino-5-chlorothiophenol (4.49 g) in ethanol (30 ml) is added 96 % potassium hydroxide (1.63 g), and the mixture is distilled to remove ethanol. The resulting solid material is suspended in toluene (70 ml) and thereto is added methyl ° -bromo-4-chlorophenylacetate (7.38 g), and the mixture is refluxed overnight. The reaction mixture is concentrated, and the resulting precipitate is separated by filtration, washed, dried, and then recrystallized from tetrahydrofuran-n-hexane to give 7-chloro-2-(4-chlorophenyl)-3-oxo-3,4-dihydro-2H-1,4-benzothiazine (6.58 g) as crystals. M.p. 230°-233.5° C.

reactant | 2-amino-5-chlorothiophenol | 4.49 g | NC1=C(C=C(C=C1)Cl)S | C6H6ClNS
reactant | potassium hydroxide | 1.63 g | [OH-].[K+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 7-chloro-2-(4-chlorophenyl)-3-oxo-3,4-dihydro-2H-1,4-benzothiazine | 6.58 g | ClC1=CC2=C(NC(C(S2)C2=CC=C(C=C2)Cl)=O)C=C1 | C14H9Cl2NOS
